US08859774B2
4-Chloro-2-(trifluoromethyl)pyridine (141 μl, 1.102 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (199 μl, 1.322 mmol), and phenylmethanethiol (129 μl, 1.102 mmol) were dissolved in dry dimethylformamide (2 mL). The reaction mixture was heated at 100° C. in a microwave for 30 minutes, then partitioned between ether (25 mL) and water (25 mL). The aqueous layer was extracted with ether (2×25 mL) and the combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to give a pale yellow oil. The crude product was purified by chromatography on silica gel (gradient: 0-30% ethyl acetate in isohexane) to afford 4-(benzylthio)-2-(trifluoromethyl)pyridine (224 mg) as a colourless oil. LCMS (Method F, ES-API): RT 2.79 min, m+H=270.1.

reactant | 4-Chloro-2-(trifluoromethyl)pyridine | 1.102 mmol, 141 μl | ClC1=CC(=NC=C1)C(F)(F)F | C6H3ClF3N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.322 mmol, 199 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | phenylmethanethiol | 1.102 mmol, 129 μl | C1(=CC=CC=C1)CS | C7H8S
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(benzylthio)-2-(trifluoromethyl)pyridine | 224 mg | C(C1=CC=CC=C1)SC1=CC(=NC=C1)C(F)(F)F | C13H10F3NS
